US07371773B2
Production of (Z)-3-(3,5-difluoro-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile (Compound 26)
3,5-Difluorobenzaldehyde (1.42 g) and 3,4-dimethoxybenzyl cyanide (1.77 g) were subjected to condensation in accordance with process A of (production process 2), to thereby produce the target product (2.10 g, yield: 69%).

reactant | 3,5-Difluorobenzaldehyde | 1.42 g | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
reactant | 3,4-dimethoxybenzyl cyanide | 1.77 g | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-3-(3,5-difluoro-phenyl)-2-(3,4-dimethoxy-phenyl)-acrylonitrile | 2.10 g, yield: 69% | FC=1C=C(C=C(C1)F)\C=C(/C#N)\C1=CC(=C(C=C1)OC)OC | C17H13F2NO2
